US06635633B2
D. 3-[5-Methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propan-1-ol
Cs2CO3 (33.74 g, 103.5 mmol) was added to a solution of 5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine (29.8 g, 86.3 mmol) in anhydrous DMF (70 mL) and stirred for 25 min. 3-Bromo-1-propanol (8.6 mL, 13.2 g, 94.9 mmol) was added and stirred under N2 at room temperature for 18 h. Water (500 mL) was added to the reaction and stirred for 5 min. The precipitated material was filtered out and washed with water (4×100 mL) and dried. The crude material (31.0 g) was taken up in anhydrous DMF (65 mL) and Cs2CO3 (33.74 g, 103.5 mmol) was added, and stirred for 10 min. Then 3-bromo-1-propanol (8.6 mL, 13.2 g, 94.9 mmol) and MeOH (6.0 mL, 4.75 g, 148 mmol) were added and stirring continued under N2 at rt for 15 h. Water (500 mL) was added to the reaction and stirred for 10 min. The precipitated material was filtered and washed with water (3×100 mL). The filter cake was dissolved in CH2Cl2 (200 mL) and washed with brine (50 mL), dried (Na2SO4), and concentrated. The solid was triturated with Et2O (200 mL), filtered, then washed with Et2O, and dried to furnish 16.0 g of the desired compound. The mother liquor was chromatographed (silica, 0-10% acetone/EtOAc) to obtain an additional 3.0 g of the title compound. The combined yield was 54.6%. MS (electrospray): exact mass calculated for C17H20F3N3O3S, 403.12; m/z found, 404.0 [M+H]+. 1H NMR (400 MHz, CDCl3): 7.71 (d, J=8.2 Hz, 2H), 7.66 (d, J=8.5 Hz, 2H), 4.55 (s, 2H), 4.23 (t, J=6.5 Hz, 2H), 3.70-3.63 (m, 4H), 2.90 (s, 3H), 2.90 (t, J=5.1 Hz, 2H), 2.62 (t, J=5.9 Hz, 1H), 2.06 (q, J=6.1 Hz, 2H).

reactant | Cs2CO3 | 103.5 mmol, 33.74 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine | 86.3 mmol, 29.8 g | CS(=O)(=O)N1CC2=C(CC1)NN=C2C2=CC=C(C=C2)C(F)(F)F | C14H14F3N3O2S
reactant | 3-Bromo-1-propanol | 94.9 mmol, 8.6 mL, 13.2 g | BrCCCO | C3H7BrO
reactant | Cs2CO3 | 103.5 mmol, 33.74 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-bromo-1-propanol | 94.9 mmol, 8.6 mL, 13.2 g | BrCCCO | C3H7BrO
reactant | MeOH | 148 mmol, 6.0 mL, 4.75 g | CO | CH4O
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
solvent | Water | 500 mL | O | H2O
solvent | Water | 500 mL | O | H2O
product | 3-[5-Methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propan-1-ol | 16.0 g, yield was 54.6% | CS(=O)(=O)N1CC2=C(CC1)N(N=C2C2=CC=C(C=C2)C(F)(F)F)CCCO | C17H20F3N3O3S
